* source LAP 1 ( FREQUENCY RESPONSE )
R_R2         0 N16715  13k TC=0,0 
R_RS         IN N16783  50 TC=0,0 
C_C3         N16783 N16715  10u  TC=0,0 
R_RC         N16725 N16719  2.9K TC=0,0 
V_V2         IN 0  AC 1
+SIN 0 10u 10K 0 0 0
C_C1         0 N16729  10u  TC=0,0 
V_V1         0 N16719 12
Q_Q1         N16725 N16715 N16729 Q2N2222
R_RE         0 N16729  930 TC=0,0 
C_C2         N16725 OUT  10u  TC=0,0 
R_R1         N16715 N16719  50K TC=0,0 
R_RL         0 OUT  4.7K TC=0,0 
